US06756359B2
To a solution of 2-Imidazo[4,5-b]pyridin-1-yl-2-methyl-propionic acid ethyl ester (1 eq) in ethanol was added sodium borohydride (4 eq) at room temperature. The reaction mixture was left stirring at room temperature overnight and then quenched by addition of H2O. Once the reaction solvent was removed in vacuo, the residue was dissolved in dichloromethane, washed with NaCl(sat), dried over sodium sulfate, filtered and concentrated to give compound 2-Imidazo[4,5-b]pyridin-1-yl-2-methyl-propan-1-ol (92%) MH+(192).

reactant | 2-Imidazo[4,5-b]pyridin-1-yl-2-methyl-propionic acid ethyl ester | 1 eq | C(C)OC(C(C)(C)N1C=NC2=NC=CC=C21)=O | C12H15N3O2
reactant | sodium borohydride | 4 eq | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-Imidazo[4,5-b]pyridin-1-yl-2-methyl-propan-1-ol | 92% | N1(C=NC2=NC=CC=C21)C(CO)(C)C | C10H13N3O
